US06890942B2
4-(5-Chloro-thiophene-2-sulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with 5-chloro-thiophene-2-sulfonic acid amide as described in the preparation of compound 1 to yield the title compound. 1H NMR (500 MHz, CDCl3) δ: 3.66 (s, 3), 4.77 (s, 2), 6.49 (s, 1), 7.00 (overlapping m, 3), 7.26 (m, 2), 7.72 (m, 1). 13C NMR (125 MHz, CDCl3) δ: 48.29, 63.20, 92.61, 115.69, 115.87, 126.94, 130.23, 130.30, 131.01, 135.19, 135.85, 140.50, 159.01, 159.08, 161.69, 163.66, 170.84.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | 5-chloro-thiophene-2-sulfonic acid amide | ClC1=CC=C(S1)S(=O)(=O)N | C4H4ClNO2S2
product | 4-(5-Chloro-thiophene-2-sulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C=2SC(=CC2)Cl)O)=O)OC)C=C1 | C16H14ClFN2O6S2
